US04454107
Preparation of 2,6-diketo-N-carboxymethyl morpholine (NTA anhydride)
A round bottom flask is charged with dimethylformamide 72 g, acetic anhydride 25 g, pyridine 2 g, and nitrilotriacetic acid 38.2 g and the suspension is nitrogen purged for several minutes. The flask is stoppered and the mixture is stirred at room temperature for 3 days. A small amount of unreacted NTA is filtered out. The bulk of the solvent 79 ml is removed in vacuo at a bath temperature of 60°-70° C. The resulting viscous solution is twice roto-vacued after two successive additions of 40 ml dimethylformamide.

reactant | dimethylformamide | 72 g | CN(C=O)C | C3H7NO
reactant | acetic anhydride | 25 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | nitrilotriacetic acid | 38.2 g | N(CC(=O)O)(CC(=O)O)CC(=O)O | C6H9NO6
solvent | pyridine | 2 g | N1=CC=CC=C1 | C5H5N
product | 2,6-diketo-N-carboxymethyl morpholine | O=C1CN(CC(O1)=O)CC(=O)O | C6H7NO5
